US05043452
A reaction vessel equipped with a thermometer, a stirrer and a condenser having a water separator was charged with 133 g of diisopropanolamine, 100 g of benzene, 120 g of methyl isobutyl ketone and p-toluenesulfonic acid. The content was heated to reflux and reacted for another 5 hours with removing water. Benzene was removed under a reduced pressure and then distilled at 75° to 79° C./1 mmHg to obtain 152 g of 2-methyl-2-isobutyl-3-(2-hydroxypropyl)-5-methyloxazolidine.

reactant | diisopropanolamine | 133 g | CC(CNCC(C)O)O | C6H15NO2
reactant | benzene | 100 g | C1=CC=CC=C1 | C6H6
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
solvent | methyl isobutyl ketone | 120 g | C(C(C)C)C(=O)C | C6H12O
product | 2-methyl-2-isobutyl-3-(2-hydroxypropyl)-5-methyloxazolidine | 152 g | CC1(OC(CN1CC(C)O)C)CC(C)C | C12H25NO2
